US08957089B2
67.1 2-(4-Methoxyphenyl)-2-methylpropanenitrile
To a suspension of sodium tert-butylate (21.54 g, 217.4 mmol) in dimethylformamide (37 mL) and tetrahydrofuran (37 mL) was added (4-methoxyphenyl)acetonitrile (8.00 g, 54.36 mmol) at 5° C. At the same temperature methyl iodide (13.54 mL) was added dropwise resulting in the formation of a light brown solid. The reaction mixture was diluted with dimethylformamide (15 mL) and tetrahydrofuran (15 mL). Stirring was continued at 10° C. for 1.5 h. The reaction mixture was cooled in a ice bath and 2N aqueous hydrochloric acid (100 mL) was added. The reaction mixture was extracted with ethyl acetate (3×100 mL). The combined extracts were washed with aqueous saturated NaHCO3 solution (2×50 mL) and brine (50 mL). The extracts were dried (MgSO4) and the solvent was evaporated in vacuo. The crude product was purified by flash chromatography (silica, n-heptane:dichloromethane=1:1). Yield: 7.6 g (43.4 mmol, 79.8%).

reactant | (4-methoxyphenyl)acetonitrile | 54.36 mmol, 8.00 g | COC1=CC=C(C=C1)CC#N | C9H9NO
reactant | methyl iodide | 13.54 mL | CI | CH3I
reactant | hydrochloric acid | 2N, 100 mL | Cl | ClH
reactant | dimethylformamide | 37 mL | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 37 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-(4-Methoxyphenyl)-2-methylpropanenitrile | COC1=CC=C(C=C1)C(C#N)(C)C | C11H13NO
